US04649142
A solution of 3,4-dihydro-6-(3,4-dimethoxyphenyl)-1,3-dimethyl-4-(2,4,6-trimethylphenylimino)-2(1H)pyrimidinone (5.0 g) in aqueous hydrobromic acid (47%) (50 ml) was refluxed for 1.5 hours. After being cooled to ambient temperature, the solution was neutralized with aqueous sodium hydroxide, and extracted with chloroform. The organic layer was washed with brine, dried over sodium sulfate, and evaporated. The resulting oil was crystallized from a mixture of diisopropyl ether and ethyl acetate (1:1 v/v) to give 3,4-dihydro-6-(3,4-dihydroxyphenyl)-1,3-dimethyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone (4.41 g).

reactant | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-1,3-dimethyl-4-(2,4,6-trimethylphenylimino)-2(1H)pyrimidinone | 5.0 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1C)=O)C)=NC1=C(C=C(C=C1C)C)C | C23H27N3O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrobromic acid | 50 ml | Br | BrH
product | 3,4-dihydro-6-(3,4-dihydroxyphenyl)-1,3-dimethyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone | 4.41 g | OC=1C=C(C=CC1O)C1=CC(N(C(N1C)=O)C)=NC1=C(C=C(C=C1C)C)C | C21H23N3O3
